US07915267B2
1-{2-[(2-{[1-(triphenylmethyl)-1H-1,2,4-triazol-3-yl]thio}ethyl)oxy]pyridin-4-yl}methanamine
A solution of 2-[(2-{[1-(triphenylmethyl)-1H-1,2,4-triazol-3-yl]thio}ethyl)oxy]pyridine-4-carbonitrile obtained in Reference Example 19 (5.00 g, 10.2 mmol) in THF (40 mL) was added to a suspension of lithium aluminum hydride (0.775 g, 20.4 mmol) in THF (60 mL) at 0° C., and the mixture was stirred at room temperature for 7 hr. The mixture was cooled to 0° C., water and 1N aqueous sodium hydroxide solution were added, and the insoluble material was filtered off. The filtrate was dried over sodium sulfate, and concentrated. The obtained oil was purified by silica gel column chromatography (0-20% methanol/ethyl acetate) to give the title compound as a yellow oil (2.06 g, 41%).

reactant | 2-[(2-{[1-(triphenylmethyl)-1H-1,2,4-triazol-3-yl]thio}ethyl)oxy]pyridine-4-carbonitrile | C1(=CC=CC=C1)C(N1N=C(N=C1)SCCOC1=NC=CC(=C1)C#N)(C1=CC=CC=C1)C1=CC=CC=C1 | C29H23N5OS
reactant | lithium aluminum hydride | 20.4 mmol, 0.775 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 1-{2-[(2-{[1-(triphenylmethyl)-1H-1,2,4-triazol-3-yl]thio}ethyl)oxy]pyridin-4-yl}methanamine | 2.06 g, 41% | C1(=CC=CC=C1)C(N1N=C(N=C1)SCCOC1=NC=CC(=C1)CN)(C1=CC=CC=C1)C1=CC=CC=C1 | C29H27N5OS
